Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Shellfish / asa
 
Attending: ___
 
Chief Complaint:
Dypsnea
 
Major Surgical or Invasive Procedure:
___ Cystoscopic ___ foley catheter placement

 
History of Present Illness:
Mr. ___ is a ___ year old man with a past medical history of
prostate cancer s/p radiation, non-Hodgkin lymphoma stage IIIA
s/p 6 cycles of CHOP in ___, and hypertension who presents with
hypoxia. 

The patient developed GI symptoms with nausea, vomiting, and
abdominal pain about 1.5 weeks ago that spontaneously resolved.
After the symptoms resolved he stayed home from work for a 
couple
of days with fatigue and felt this ongoing through the week. Two
days prior to admission he developed a new cough that was
associated with shortness of breath. He had no fever or chest
pain. The cough continued and he went to an urgent care center 
on
the day of admission where he was found to be hypoxia to 85-88%
on room air and was placed on three liters of supplemental
oxygen. A chest x-ray at the urgent care was concerning for new
onset of chf and cardiomegaly. He had a laboratory evaluation
that showed elevated BNP and ___. He was referred to the ___
ED. 

The patient has no orthopnea, PND. He reports he was told he had
a mitral valve prolapse many years ago. He had an unremarkable
TTE in the setting of CHOP in ___. 

He has a notable history of radiation to prostate cancer ___ years
ago complicated by cystitis and hematuria and difficulty
controlling the urination at night.

In the ED, initial vitals: 
T 97.8 HR 80 BP 200/110 RR 16 SaO2 97% 3L NC  

- Exam notable for: 
exam: no pitting edema but with rales on auscultation
 
- Labs notable for:  
Negative flu
BNP 8579
Trop 0.04->0.02
CBC: 9.1>10.6/32.7<267
TSH: 1.5
LFT: WNL
Cr 2.4 BUN 33

- Imaging notable for:  
CXR
1. Mild pulmonary vascular congestion and edema, more likely 
than
atypical infection. 
2. Cardiomediastinal silhouette appears slightly enlarged,
progressed compared to ___. 

- Pt given: ___ 17:31 PO Azithromycin 500 mg
- Vitals prior to transfer: 
HR 85 SaO2 183/100 RR 22 SaO2 97% 4L NC  

Upon arrival to the floor, the patient confirms the above. He
feels comfortable on supplemental oxygen.  
 
Past Medical History:
DLBCL: ___, s/p CHOP, no recurrence
PROSTATITIS   
HYPERTENSION   
PROSTATE CANCER: s/p radiation therapy complicated by radiation
cystitis.  
ILD: diagnosed ___
 
Social History:
Country of Origin: ___, grew up in ___ (___) 
Marital status: Married, # years: ___ 
Children: Yes: 1 son, 1daughter 
Lives with: ___ 
Lives in: House 
Work: ___
Sexual activity: Past 
Sexual orientation: Female 
Sexual Abuse: Denies 
Domestic violence: Denies 
Contraception: N/A 
Tobacco use: Former smoker 
     Year Quit: ___ 
     Years Since Quit: 37 
     # Packs/Day: 1 
     # Years Smoked: 13 
     Pack Years: 13 
Alcohol use: Past and Present , drinks per week: <5 
Recreational drugs (marijuana, heroin, crack pills or other):
Denies   
 
Family History:
Mother ___ ___ DEMENTIA       
      COLON CANCER   ___         
Father ___ ___ HYPERTENSION              
Uncle     EAR, NOSE & THROAT     Throat cancer 
Comments: 2 sister(s) - healthy. 1 son(s), 1 daughter(s) -
healthy 
 
Physical Exam:
ADMISSION EXAM
==============
VITALS: T 97.8 BP 201/115 HR 87 RR 18 SaO2 97% on 4L  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP elevated to 14 cm while at 90 degrees, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Bibasilar crackles with good air movement  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding, some firmness in the
LLQ.  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities

DISCHARGE EXAM
==============
VITALS: 98.7PO  151/84  99  17  95Ra 
GEN: Alert, oriented, in no acute distress  
HEENT: Sclerae anicteric, MMM
CV: RRR, nl S1/S2, no m/g/r
LUNGS: breathing comfortably on 2L, CTAB, no wheezing or 
crackles
ABD: NABS, soft, nontender, nondistended, no rebound/guarding  
GU: Foley in place draining red-tinged urine
EXT: wwp, no edema
SKIN: Warm, dry, no rashes or notable lesions  
NEURO: A/Ox3, moves all extremities, face symmetric
 
Pertinent Results:
ADMISSION LABS
==============
___ 03:45PM BLOOD WBC-9.1 RBC-3.48* Hgb-10.6* Hct-32.7* 
MCV-94 MCH-30.5 MCHC-32.4 RDW-14.1 RDWSD-47.9* Plt ___
___ 03:45PM BLOOD Neuts-80.3* Lymphs-7.7* Monos-9.9 Eos-1.3 
Baso-0.2 Im ___ AbsNeut-7.26* AbsLymp-0.70* AbsMono-0.90* 
AbsEos-0.12 AbsBaso-0.02
___ 03:45PM BLOOD Plt ___
___ 03:45PM BLOOD Ret Aut-1.1 Abs Ret-0.04
___ 03:45PM BLOOD Glucose-109* UreaN-33* Creat-2.4*# Na-141 
K-3.7 Cl-101 HCO3-26 AnGap-14
___ 03:45PM BLOOD ALT-12 AST-16 LD(LDH)-314* CK(CPK)-124 
AlkPhos-44 TotBili-0.4

NOTABLE LABS
============
___ 03:32PM BLOOD proBNP-___*
___ 03:32PM BLOOD cTropnT-0.04*
___ 07:54PM BLOOD cTropnT-0.02*
___ 07:54PM BLOOD VitB12-513
___ 03:45PM BLOOD calTIBC-170* Ferritn-475* TRF-131*
___ 03:45PM BLOOD TSH-1.5
___ 03:20PM BLOOD ANCA-NEGATIVE
___ 04:25AM BLOOD RheuFac-14 dsDNA-NEGATIVE
___ 03:20PM BLOOD ___
___ 07:45AM BLOOD HIV Ab-NEG

NOTABLE IMAGING
===============
___ RENAL US
IMPRESSION:   
1. Bilateral moderate hydroureteronephrosis with patency of the 
ureters at the ureterovesical junction, but the very distal 
ureters are narrowed at the ureterovesicular junctions.  
Findings could be secondary to obstruction due to 
enlarged prostate or fibrosis in the context of pelvic radiation 
therapy. 
2. No sonographic findings to suggest renal artery stenosis or 
nephrolithiasis. 
3. Bilateral renal cysts measuring up to 4.3 on the right and 
4.1 on the left kidneys. 

___ CT CHEST W/O CONTRAST
IMPRESSION:  
1.  Findings consistent with interstitial lung disease; active 
inflammatory 
component is quite possible noting predominance of patchy ground 
glass 
opacities in addition to probably chronic fibrotic findings.  
This may fit an nonspecific interstitial pneumonitis component 
with active component.  
Alternatively, possibility of active infectious process 
superimposed on 
underlying lung disease could be considered.   
2.  Bronchiectasis which is probably to some extent due to 
fibrosis but also noting enlargement of trachea and central 
airways suggesting underlying airway 
disease raising possibility of underlying airway disease. 
3.   Partly imaged suspected persistent bilateral 
hydronephrosis.

___ TTE
The left atrial volume index is SEVERELY increased. There is no 
evidence for an atrial septal
defect by 2D/color Doppler. There is mild symmetric left 
ventricular hypertrophy with a normal cavity size.
Overall left ventricular systolic function is low normal. The 
visually estimated left ventricular ejection
fraction is 50%. There is no resting left ventricular outflow 
tract gradient. There is Grade I diastolic
dysfunction. The right ventricular free wall is hypertrophied. 
Normal right ventricular cavity size with mild
global free wall hypokinesis. Tricuspid annular plane systolic 
excursion (TAPSE) is depressed. Intrinsic right
ventricular systolic function is likely lower due to the 
severity of tricuspid regurgitation. The aortic sinus
diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic valve leaflets (3)
are mildly thickened. There is no aortic valve stenosis. There 
is no aortic regurgitation. The mitral valve
leaflets appear structurally normal with no mitral valve 
prolapse. There is mild [1+] mitral regurgitation. The
pulmonic valve leaflets are normal. The tricuspid valve leaflets 
appear structurally normal. There is moderate
to severe [3+] tricuspid regurgitation. There is SEVERE 
pulmonary artery systolic hypertension. In the setting
of at least moderate to severe tricuspid regurgitation, the 
pulmonary artery systolic pressure may be
UNDERestimated. There is no pericardial effusion.

___ V/Q SCAN
IMPRESSION:  Moderate probability of pulmonary embolism given 
unmatched 
segmental perfusion defect in the right lower lobe as described 
above. 

___ LENIs
IMPRESSION:  
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

___ TTE
The estimated right atrial pressure is ___ mmHg. Overall left 
ventricular systolic
function is mildly depressed. Quantitative biplane left 
ventricular ejection fraction is 49 %. The
right ventricular free wall is hypertrophied. Mildly dilated 
right ventricular cavity with mild global free
wall hypokinesis. There is mild [1+] mitral regurgitation. The 
tricuspid valve leaflets are mildly
thickened with systolic prolapse. There is moderate [2+] 
tricuspid regurgitation. There is moderate to
severe pulmonary artery systolic hypertension. There is no 
pericardial effusion.
Compared with the prior TTE (images reviewed)

DISCHARGE LABS
==============
___ 06:50AM BLOOD WBC-6.9 RBC-3.09* Hgb-9.3* Hct-29.9* 
MCV-97 MCH-30.1 MCHC-31.1* RDW-13.6 RDWSD-48.3* Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD Glucose-104* UreaN-20 Creat-1.4* Na-143 
K-5.3 Cl-103 HCO3-28 AnGap-12
___ 06:50AM BLOOD Calcium-8.8 Phos-3.4 Mg-1.8
 
Brief Hospital Course:
SUMMARY:
==========================================
Mr. ___ is a ___ man with history of prostate cancer s/p 
radiation ___ years ago, DLBCL stage IIIA s/p 6 cycles of CHOP in 
___, and hypertension who presented with cough and hypoxemia 
and was found to have pulmonary edema, imaging consistent with 
ILD (previously undiagnosed), and obstructive ___ which had 
likely contributed to volume overload and pulmonary edema 
causing his acute presentation. Foley was placed and he 
auto-diuresed to dry weight with resolution of hypoxemia. 

ACUTE ISSUES:
==========================================
# Hypoxemia
# Interstitial lung disease
# Pulmonary edema
Patient presented with two days of cough and shortness of breath 
with preceding fatigue of about 10 days. He was found to have 
hypoxemia to
mid-80s and admitted for further work-up. CT chest w/o contrast 
showed asymmetric but bilateral reticulation and ground glass 
opacities as well as bronchiectasis and dilation of airways most 
severe in RUL, with LUL relatively spared. These findings were 
felt to be consistent with ILD with both an active inflammatory 
and chronic component. Initial TTE revealed EF 50%, severe pHTN 
(PASP 71), and RV hypertrophy, concerning for chronic pulmonary 
hypertension process. Pulmonary was consulted and recommended 
broad work-up for ILD which was negative including: ___, ANCA, 
dsDNA, RF, anti-GBM, ___, anti-RNP, anti-Ro, anti-La, 
Scl70, anti-CCP, HIV, aldolase, myositis panel, and respiratory 
viral panel. Hypersensitivity pneumonitis panel was pending at 
time of discharge. The patient initially required ___ NC for 
supplemental O2, which was subsequently able to be weaned off 
with diuresis (see below). After the patient was felt to have 
diuresed to his dry weight, repeat CXR and TTE were obtained 
which showed improvement in pulmonary HTN and lung opacities. 

# Hypertensive emergency
On presentation the patient was noted to have elevated blood 
pressures to 200s/100s. Although he was asymptomatic, he was 
noted to have significant O2 requirement felt to be secondary to 
pulmonary edema. He was started on nitroglycerin gtt titrated to 
SBP 140s-160s, then weaned to labetalol and hydralazine. 
Eventually he was transitioned to a regimen of labetalol and 
amlodipine which good BP control. His home atenolol was held in 
the setting ___ (see below). His blood pressures remained 
stable. 

# Acute kidney injury, post-renal
Baseline creatinine 1.2 in ___. On admission the patient was 
found to have Cr 2.4 which subsequently rose to 3.0. Renal 
ultrasound showed moderate bilateral hydroureteral nephrosis 
consistent with obstruction. Notably the patient has a history 
of prostate cancer and a very enlarged prostate. He did have 
traumatic foley placement and eventually required cystoscopic 
placement of foley by Urology. Afterwards he was noted to have 
significant urine output of ___ daily and subsequent 
improvement in his creatinine. Per Urology, foley remained in 
place at discharge with plan for Urology follow-up. He was 
continued on doxazosin 4mg QHS and finasteride 5mg QD which he 
had recently stopped. 

# Normocytic anemia
Baseline Hb 13.3. The patient presented with Hb at 10.6. Other 
than intermittent hematuria he had no evidence of bleeding. Iron 
studies were consistent with anemia of chronic disease with low 
reticulocyte count indicating inflammatory block. His hemoglobin 
remained stable throughout admission. 

CHRONIC ISSUES:
==========================================
# Radiation proctitis
# Incontinence
As above, foley was placed during this admission with Urology 
and the patient was discharged with foley in place given 
traumatic placement and very large prostate.

TRANSITIONAL ISSUES:
==========================================
[] Discharged with Foley, plan to follow-up with Urology for 
removal
[] Patient was found to have new ILD of unclear etiology and 
pulmonary hypertension during this admission. Requires continued 
diagnostic work-up and management by Pulmonology. 
[] Patient was found to have significant HTN during this 
admission and started on several new medications. Will need 
further titration to meet BP goal. 

MEDICATION CHANGES:
==========================================
- Started labetalol
- Started amlodipine 
- Started finasteride 
- Stopped atenolol

DISCHARGE CREATININE: 1.4
CODE: Full
CONTACT: Wife, ___ ___, cell ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Doxazosin 4 mg PO HS 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  Finasteride 5 mg PO DAILY 
RX *finasteride 5 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
3.  Labetalol 200 mg PO TID 
RX *labetalol 200 mg 1 tablet(s) by mouth Three times a day Disp 
#*90 Tablet Refills:*0 
4.  Doxazosin 4 mg PO HS 
RX *doxazosin [Cardura] 4 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
# Acute kidney injury, obstructive
# Urinary retention
# Traumatic foley placement
# Interstitial lung disease
# Pulmonary edema
# Pulmonary arterial hypertension
# Hypertensive urgency

SECONDARY:
# Tricuspid regurgitation
# Normocytic anemia
# History of prostate cancer s/p radiation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  
It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You had a cough and were found to have low oxygen levels  

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You had lung imaging (chest xray and CT scan) which showed 
fluid in the lungs as well as a type of lung disease called 
interstitial lung disease or ILD
- You had an ultrasound of the heart which showed blood flowing 
backwards through one of the valves and high pressures in your 
lung vessels 
- You had a Foley ___ put in because you had buildup of urine 
around the kidneys causing kidney injury
- You were able to urinate several extra liters of fluid in your 
body which had been making the lungs and kidneys worse

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please continue to take all of your medications and follow-up 
with your appointments as listed below.

We wish you the best!  

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___